data/oMe_Silver.jsonl
{"reaction_id": "NR-230_1-C=C(C)C_2-CCCC","level": "hard","name": "Pummerer Rearrangement","reactants_smiles": ["O=C(C)OC(=O)C","S(=O)(CC=C(C)C)(CCCC)"],"products_smiles": ["O=C(C)OC(C=C(C)C)S(CCCC)"],"conditions": "Acetic anhydride","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](OC([O-])(C)OC(=O)C)(CC=C(C)C)(CCCC)","step_weight": 0,"rationale": "Acetic anhydride acylates the sulfoxide oxygen due to its high electrophilicity, generating an oxysulfonium ion stabilized by resonance with sulfur, making the α-protons more acidic."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S+](OC(=[O])(C))(CC=C(C)C)(CCCC)","step_weight": 0,"rationale": "Elimination of acetate occurs because it is a good leaving group, forming a sulfonium species with an electron-deficient α-carbon primed for rearrangement."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](=CC=C(C)C)(CCCC)","step_weight": 0,"rationale": "The α-carbon adjacent to the positively charged sulfur becomes electrophilic, enabling intramolecular rearrangement via C–S bond migration to stabilize the cation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)OC(C=C(C)C)S(CCCC)","step_weight": 0,"rationale": "Acetate attacks the α-carbon, displacing the sulfonium charge and forming the α-acyloxy sulfide, driven by the nucleophilicity of acetate and product stability."}],"description": "In acetic anhydride, the sulfoxide oxygen is activated toward rearrangement by electrophilic acylation, forming an oxysulfonium intermediate. This facilitates α-proton removal and rearrangement to a stabilized cation, which is trapped by acetate to yield the α-acyloxy sulfide product."}
{"reaction_id": "NR-215_1-OC_2-F_3-CC_4-OC_5-C_6-c2ccccc2_7-C(C)C","level": "hard","name": "Pechmann Condensation","reactants_smiles": ["c1ccccc1O(OC)","O=C(C(F)(CC)(OC))CC(=O)OC(C)(c2ccccc2)(C(C)C)"],"products_smiles": ["C(F)(CC)(OC)C1=CC(=O)Oc2c(OC)cccc21"],"conditions": "acid","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(C(F)(CC)(OC))CC(=O)Oc1c(OC)cccc1","step_weight": 0,"rationale": "Acidic conditions protonate the ester, increasing electrophilicity of the carbonyl carbon, allowing phenol oxygen to attack and displace the original alkoxy group via nucleophilic acyl substitution."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(C(F)(CC)(OC))CC(=O)Oc1c(OC)cccc1","step_weight": 0,"rationale": "Proton transfer to the β-keto carbonyl oxygen increases its electrophilicity, facilitating subsequent intramolecular attack by activating the carbonyl for cyclization."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "OC(C(F)(CC)(OC))1CC(=[O])O[C+]2C(OC)=CC=CC21","step_weight": 0,"rationale": "The activated β-keto carbonyl undergoes intramolecular electrophilic attack by the aromatic ring, favored by resonance stabilization of the resulting carbocation intermediate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(F)(CC)(OC))1CC(=[OH+])Oc2c(OC)cccc21","step_weight": 0,"rationale": "Proton transfer to the hydroxyl oxygen adjacent to the ring oxygen increases leaving group ability, preparing for dehydration and restoring aromaticity."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C(F)(CC)(OC))1C=C(O)Oc2c(OC)cccc21","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is a good leaving group, and elimination forms the conjugated coumarin system, stabilized by extended π-conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(F)(CC)(OC)C1=CC(=O)Oc2c(OC)cccc21","step_weight": 0,"rationale": "Final deprotonation restores neutrality and aromaticity, yielding the thermodynamically stable coumarin product."}],"description": "Under acidic conditions, the phenol and β-keto ester undergo Pechmann condensation. Acid catalysis activates the carbonyls toward nucleophilic attack, enabling ester exchange, intramolecular electrophilic substitution, and cyclization. Proton transfers facilitate intermediate stabilization, and elimination yields the coumarin core with substituents from both reactants."}
